US07829563B2
1-m-Tolyl-3-(4-trifluoromethyl-phenyl)-propan-1-one
To a solution of 0.4 g (1.5 mmol) N-Methoxy-N-methyl-3-(4-trifluoromethyl-phenyl)-propionamide in 7 mL THF under argon at 0° C., was added dropwise 3.062 ml (3.1 mmol) m-Tolylmagnesiumbromid (1M in THF). The reaction mixture was stirred for 15 minutes at 0° C. and at RT for 50 minutes, cooled to 0° C. and acidified with 1N HCl to pH 1-2. Water and ethyl acetate were added and the water phase was extracted twice with ethyl acetate. The organic phases were dried over Na2SO4, filtered and the solvent was removed in vacuo. The crude oil was purified with flash column chromatography on silica gel eluting with a gradient formed from heptane and ethylacetate to provide 0.36 g (81%) of title compound as colorless oil. MS (m/e): 293.0 (MH+).

reactant | N-Methoxy-N-methyl-3-(4-trifluoromethyl-phenyl)-propionamide | 1.5 mmol, 0.4 g | CON(C(CCC1=CC=C(C=C1)C(F)(F)F)=O)C | C12H14F3NO2
reactant | m-Tolylmagnesiumbromid | 3.1 mmol, 1M, 3.062 ml | C1(=CC(=CC=C1)[Mg]Br)C
reactant | HCl | 1N | Cl | ClH
reactant | Water | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-m-Tolyl-3-(4-trifluoromethyl-phenyl)-propan-1-one | 0.36 g, 81% | C1(=CC(=CC=C1)C(CCC1=CC=C(C=C1)C(F)(F)F)=O)C | C17H15F3O
